US04190607
2-METHYL-2(Sec Butyl)-1,3-PROPANEDIOL
50 g. of 2,3-dimethyl-pent-4en-aldehyde is added to 100 ml. of 37% formaldehyde in a 250 ml. round bottom flask. 70 g. of a 50% w/w solution of sodium hydroxide is dripped into the mixture with stirring and the temperature maintained at 35°-40° C. with an ice bath. When the addition is complete the mixture is stirred one-half hour at room temperature and the two layers separated. The aqueous layer is extracted with 75 ml. ethyl acetate and the extract combined with the organic layer. The organic layer is washed twice with 100 ml. of water. The organic layer is placed in a Parr hydrogenation bottle and diluted to 150 ml. with methanol. 1 g. wet Raney Nickle catalyst is added and the mixture reduced at 50 p.s.i. until no more hydrogen is absorbed. The catalyst is removed by filtration and the filtrate concentrated and distilled. A yield of 45.4 g. of 2-methyl-2(sec butyl)-1,3-propanediol BP 139°-140° C. at 10 mm. pressure and refractive index ND22 =1.4610 is obtained.

reactant | 2,3-dimethyl-pent-4en-aldehyde | CC(C=O)C(C=C)C | C7H12O
reactant | formaldehyde | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-METHYL-2(Sec Butyl)-1,3-PROPANEDIOL | CC(CO)(CO)C(C)CC | C8H18O2
